US06852717B2
Synthesis of 1-(5-tert-butyl-2-methoxy-phenyl)-3-[4-(2-methyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-urea
1-(5-tert-Butyl-2-methoxy-phenyl)-3-[4-(2-chloro-pyrimidin-4-yloxy)-naphthalen-1-yl]-urea (50 mg, 0.1 mmol) was dissolved in 0.4 mL of DMF. To this was added PdCl2(PPh3)2 (10 mol %), o-methoxyboronic acid (32 mg, 0.2 mmol) in 2 mL of DME/H2O/EtOH (7:3:2) and 0.53 mL of Na2CO3 (2M). The reaction was heated in a Smith synthesizer microwave for 3 min at 160° C. The product was concentrated on silica and purified (15-30% EtOAc-hexanes) to provide 13 mg (23%) of the title compound as an off-white foam.

reactant | 1-(5-tert-Butyl-2-methoxy-phenyl)-3-[4-(2-chloro-pyrimidin-4-yloxy)-naphthalen-1-yl]-urea | 0.1 mmol, 50 mg | C(C)(C)(C)C=1C=CC(=C(C1)NC(=O)NC1=CC=C(C2=CC=CC=C12)OC1=NC(=NC=C1)Cl)OC | C26H25ClN4O3
reactant | DMF | 0.4 mL | CN(C)C=O | C3H7NO
solvent | DME H2O EtOH | 2 mL | COCCOC.O.CCO
solvent | Na2CO3 | 2M, 0.53 mL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | PdCl2(PPh3)2 | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 1-(5-tert-butyl-2-methoxy-phenyl)-3-[4-(2-methyl-pyrimidin-4-yloxy)-naphthalen-1-yl]-urea | 13 mg, 23% | C(C)(C)(C)C=1C=CC(=C(C1)NC(=O)NC1=CC=C(C2=CC=CC=C12)OC1=NC(=NC=C1)C)OC | C27H28N4O3
